US07476399B2
3-(3,4-Dimethoxy-phenyl)-N-(1-propyl-butyl)-acrylamide
Prepared in a similar manner as described in example 4 from 3-(3,4-dimethoxy-phenyl)-acrylic acid and 4-heptylamine. MS (M+H, 306.2).

reactant | 3-(3,4-dimethoxy-phenyl)-acrylic acid | COC=1C=C(C=CC1OC)C=CC(=O)O | C11H12O4
reactant | 4-heptylamine | CCCC(CCC)N | C7H17N
product | 3-(3,4-Dimethoxy-phenyl)-N-(1-propyl-butyl)-acrylamide | COC=1C=C(C=CC1OC)C=CC(=O)NC(CCC)CCC | C18H27NO3
